US04150224
EXAMPLE 5 7-[[(1-Pyrryl)acetyl]amino]-3-[[(5-methyl-1,3,4-thia-diazol-2-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
(1-Pyrryl)acetic is added to water, the pH of which is adjusted to about 6.5 by the addition of sodium bicarbonate. This solution is cooled in an ice bath and to it is added one equivalent of 3-[[(5 methyl - 1, 3, 4-thiadiazol-2-yl) thio]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (7-ATDCA) followed by N, N'-dicyclohexylcarbodiimide in cold dioxane. The mole ratio of (1-pyrryl) acetic acid/7-ATDCA/carbodiimide is 3/1/1. After standing overnight at ice bath temperature, the reaction mixture is filtered to remove solids. The filtrate is evaporated to dryness, the solids taken up in ethyl acetate, dried over magnesium sulfate and filtered. The ethyl acetate solution is concentrated and then treated with hexane. The title compound precipitates from solution is filtered and dried. EXAMPLE 6

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3-[[(5 methyl - 1, 3, 4-thiadiazol-2-yl) thio]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | one equivalent | CC1=NN=C(S1)SCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C11H12N4O3S3
reactant | N, N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1-pyrryl) acetic acid | N1(C=CC=C1)CC(=O)O | C6H7NO2
reactant | carbodiimide | N=C=N | CH2N2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 7-[[(1-Pyrryl)acetyl]amino]-3-[[(5-methyl-1,3,4-thia-diazol-2-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | N1(C=CC=C1)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CSC=1SC(=NN1)C | C17H17N5O4S3
